Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspnea, cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with recently diagnosed pneumonia who presents
to the ED with worsening cough and dyspnea 2 days after starting
antibiotics as an outpatient. 

She first developed sore throat and a fever on ___, and her
body aches, worsened ___. She was seen at ___ with a
negative flu swab and rapid strep. She continued to have a
bothersome cough, disturbing her sleep, as well as body aches 
and
subjective fevers. She was seen in ___ on ___, at
which time she had a CXR showing LLL PNA, and she was started on
doxy/cefurox (concern for QTc prolongation).

However she has continued to feel worse, with worsening 
shortness
of breath cough productive of dark yellow suptum, and subjective
fever/malaise, with continued intermittent body aches. She 
states
that her dyspnea is associated with a sense of chest tightness,
although no chest pain. She has intermittently had mild nausea.
She also notes some itchiness on her upper back that is new. She
denies any leg pain or recent immobility. She denies neck
stiffness. 

In the ED she was noted to be afebrile with HRs in ___, BPs
___, normal  RRs, satting 98-100% on RA. Mild
leukcotysosis of 10.1 with 76% PMNs, lactate 2.1. Normal UA, flu
PCR negative. HyperK on hemolyzed specimen, which was normal 
when
repeated. CXR w/ LLL infiltrate. She was given IV ceftriaxone 
and
PO azithromycin. 

ROS: As per HPI, and 10 point ROS completed and otherwise
negative. 
 
Past Medical History:
depression
allergic rhinitis
osteopenia
history of hep A
 
Social History:
___
Family History:
MGM - breast cancer, PGM - stroke
 
Physical Exam:
ADMISSION:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored. Trace scattered crackles
on left
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No significant rashes or ulcerations noted. trace
erythema/erythematous macules in small area of upper back
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, strength symmetric
PSYCH: pleasant, appropriate affect

DISCHARGE:
24 HR Data (last updated ___ @ 713)
Temp: 97.6 (Tm 98.5), BP: 95/60 (95-96/60-61), HR: 72 (72-86),
RR: 18, O2 sat: 95% (94-96), O2 delivery: Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs; mild tenderness with percussion of the L frontal and nasal
sinuses; no tenderness of maxillary or mandibular sinuses
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: CTAB
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No ___ erythema
NEURO: AOx3, CN II-XII intact, ___ strength all extremities,
sensation grossly intact, gait testing deferred, no meningismus
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION
___ 05:05PM BLOOD WBC-10.1* RBC-3.97 Hgb-12.7 Hct-37.3 
MCV-94 MCH-32.0 MCHC-34.0 RDW-12.6 RDWSD-43.8 Plt ___
___ 05:05PM BLOOD Neuts-76.3* Lymphs-10.9* Monos-9.7 
Eos-1.6 Baso-0.4 Im ___ AbsNeut-7.71* AbsLymp-1.10* 
AbsMono-0.98* AbsEos-0.16 AbsBaso-0.04
___ 05:05PM BLOOD Glucose-110* UreaN-6 Creat-0.7 Na-135 
K-8.7* Cl-99 HCO3-25 AnGap-11
___ 05:15PM BLOOD Lactate-2.1* K-6.4*

DISCHARGE
___ 06:35AM BLOOD WBC-6.8 RBC-3.71* Hgb-11.7 Hct-34.7 
MCV-94 MCH-31.5 MCHC-33.7 RDW-12.5 RDWSD-42.7 Plt ___
___ 06:35AM BLOOD Neuts-56.8 ___ Monos-13.0 Eos-4.5 
Baso-1.0 Im ___ AbsNeut-3.87 AbsLymp-1.60 AbsMono-0.89* 
AbsEos-0.31 AbsBaso-0.07
___ 06:35AM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-143 K-4.8 
Cl-100 HCO3-29 AnGap-14

Flu A/B (___): neg
Strep pneumo Ag (___): pending
Legionella (___): neg

UA (___): neg

Sputum (___): 
Gram stain: >25 PMNs, <10 epis
1+ GPC in pairs/chains
1+ GN diplococcic
1+ budding yeast
- culture: commensal respiratory flora
BCx (___): pending x2
UCx (___): negative

CXR (___):
Left perihilar airspace opacity,, likely superior segment of the
left lower lobe, worrisome for pneumonia. Possible smaller right
perihilar airspace opacity could be an additional site of
infection. No prior study currently available for comparison.
Recommend follow-up to resolution. 

 
Brief Hospital Course:
___ year old woman with hx depression p/w fevers/cough with
imaging c/w LLL PNA, unresponsive to outpatient antibiotics, now
improving on CTX/azithromycin with possible ___ sinusitis.

# Suspected CAP (LLL, possibly R-perihilar as well):
# Mild leukocytosis/neutrophilia:
# Dyspnea/cough:
The patient presented to her ___ clinic with fever and
odynophagia on ___. CXR on ___ at ___ concerning for a 
LLL
PNA, for which cefuroxime/doxy were initiated. Her symptoms
persisted, prompting admission ___. WBC on admission 10.1, 
with
CXR again concerning for LLL PNA (likely superior segment). Flu 
negative. In
the absence of clear evidence for resistant pathogens (other 
than
occupation as PA), she was treated with guaifenesin-codeine and
Tessalon and started on CTX/azithromycin ___ (QTC was 
monitored
given concurrent citalopram, 423 on ___ with improvement in
her dyspnea and cough and resolution of her leukocytosis by
hospital day 3. Ambulatory saturation was 94-99% on RA.
Legionella Ag was negative; Strep pneumo Ag pending at 
discharge.
Sputum gram stain showed 1+ GPCs in pairs/chains, 1+ GN
diplococcic, and 1+ yeast, with preliminary culture showing only
commensal respiratory flora. Given no evidence of legionella
pneumonia and receipt of Azithromycin 1.5g, she was transitioned
prior to discharge to Augmentin 500mg q8h (as patient reports
prior diarrhea with 875mg dosing that was not experienced with
500mg dose), with plan to complete a 7d course (through ___. 
She
was instructed to f/u with her PCP ___ ___ weeks or sooner for
persistent or new symptoms despite Augmentin. 

# ___ pressure:
On the day of discharge, Ms. ___ complained of ___ pain/pressure (which she admits to having had for
the last few days), similar to prior sinus infections but in the
absence of purulent nasal discharge. Frontal/nasal sinuses were
mildly tender to percussion. Likely viral vs bacterial sinusitis
in setting of possible recent viral URI and LLL PNA (as above).
Vision was completely intact. She had no evidence on exam of an
orbital or preseptal cellulitis or meningitis. She was treated
with Augmentin as above, which should provide adequate coverage
for the unlikely diagnosis of acute bacterial rhinosinusitis. 

# Normocytic anemia:
Hct 33.1 from 37.3 on admission. Likely dilutional. Resolved
without intervention. Hct on discharge 34.7. 

# Depression:
Continue home celexa 40mg daily. QTC should be monitored as
outpatient (423 on ___.

** TRANSITIONAL **
[ ] f/u final BCx
[ ] trend QTC on citalopram (423 on ___
[ ] f/u for resolution of respiratory/sinus symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Nasonex (mometasone) 50 mcg/actuation nasal DAILY:PRN 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth three times a day Disp #*14 Tablet Refills:*0 
2.  Citalopram 40 mg PO DAILY  
3.  Nasonex (mometasone) 50 mcg/actuation nasal DAILY:PRN *AST 
Approval Required* 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLL community acquired pneumonia
Possible sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with possible left lower lobe 
pneumonia that had not responded to outpatient antibiotics. You 
were treated with IV antibiotics with improvement in your 
symptoms and white blood cell count. You are being transitioned 
to Augmentin to complete a course through ___. 

In addition, you may have a mild sinus infection, which should 
be treated with the Augmentin.

Please follow up with your primary care doctor in the next ___ 
weeks, or sooner if your symptoms persist or new symptoms 
develop.

With best wishes,
___ Medicine
 
Followup Instructions:
___